US07728030B2
N-[(2S,3R)-3-[1-(4-Fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-yl]-2,2-dimethyl-propanamide
Prepared as described in Example 1 using (2S,3R)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-amine (60 mg, 0.16 mmol) and pivaloyl chloride (0.078 mL, 0.64 mmol). Yield 53 mg (72%).

reactant | (2S,3R)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-amine | 0.16 mmol, 60 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)CC1=CC=CC=C1 | C23H22FN3O
reactant | pivaloyl chloride | 0.64 mmol, 0.078 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | N-[(2S,3R)-3-[1-(4-Fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-yl]-2,2-dimethyl-propanamide | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)NC(C(C)(C)C)=O)CC1=CC=CC=C1 | C28H30FN3O2
